US07414061B2
N-Cyclopropyl-3-{4-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-yl]-imidazol-1-yl}-benzamide
As described for Example 71c, cyclopropylamine was converted, using 3-{4-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-yl]-imidazol-1-yl}-benzoic acid (100 mg, 0.28 mmol) instead of 4-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid, to the title compound (42 mg, 38%) which was obtained as an off-white solid. MS: m/e=403.0 [M+H]+.

reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | 3-{4-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-yl]-imidazol-1-yl}-benzoic acid | 0.28 mmol, 100 mg | FC=1C=C(C=CC1)C1=NOC(=C1C=1N=CN(C1)C=1C=C(C(=O)O)C=CC1)C | C20H14FN3O3
product | N-Cyclopropyl-3-{4-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-yl]-imidazol-1-yl}-benzamide | 42 mg, 38% | C1(CC1)NC(C1=CC(=CC=C1)N1C=NC(=C1)C=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C23H19FN4O2
